US08076345B2
D) (R)-2-Methoxy-5-(oxiran-2-yl)pyridine
To a stirred solution of (R)-2-hydroxy-2-(6-methoxypyridin-3-yl)ethyl 4-methylbenzenesulfonate in MeOH (150 mL) at 0° C. was added potassium carbonate (4.4 g, 0.032 mol) and the mixture was stirred at rt overnight. The mixture was filtered through Celite and the filter cake was washed with MeOH. The filtrate was concentrated and the residue was treated with EtOAc (150 mL) and aq. Na2CO3. The organic layer was separated and washed with brine, dried (Na2SO4), and concentrated. The residue was purified by silica gel column to yield the desired expoxide as a colorless oil (1.02 g, 42%).

reactant | (R)-2-hydroxy-2-(6-methoxypyridin-3-yl)ethyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H](C=1C=NC(=CC1)OC)O | C15H17NO5S
reactant | potassium carbonate | 0.032 mol, 4.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | MeOH | 150 mL | CO | CH4O
product | (R)-2-Methoxy-5-(oxiran-2-yl)pyridine | 1.02 g, 42% | COC1=NC=C(C=C1)[C@H]1OC1 | C8H9NO2
